US07244730B2
(Step 3) (6-Cyclopropyl-3-pyridyl)methyl azide
Diphenylphosphoryl azide (0.49 ml, 2.3 mmol) and 1,8-diazabicyclo[5.4.0]undec-7-ene (0.34 ml, 2.3 mmol) were added dropwise in that order at room temperature to a solution of (6-cyclopropyl-3-pyridyl)methanol (283 mg, 1.90 mmol) in toluene (4 ml) and the mixture was stirred for 3 hours. After confirming completion of the reaction by thin layer chromatography, it was diluted with ethyl acetate and washed with water and brine. Drying was performed with anhydrous magnesium sulfate, the solvent was distilled off under reduced pressure and the residue was purified by silica gel column chromatography (solvent: n-hexane-ethyl acetate) to yield the title compound (330 mg, quant.) as a colorless oil.

reactant | Diphenylphosphoryl azide | 2.3 mmol, 0.49 ml | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 2.3 mmol, 0.34 ml | N12CCCCCC2=NCCC1 | C9H16N2
reactant | (6-cyclopropyl-3-pyridyl)methanol | 1.90 mmol, 283 mg | C1(CC1)C1=CC=C(C=N1)CO | C9H11NO
solvent | toluene | 4 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (6-Cyclopropyl-3-pyridyl)methyl azide | 330 mg | C1(CC1)C1=CC=C(C=N1)CN=[N+]=[N-] | C9H10N4
